US09371333B2
2-Amino-4-(3-bromo-4,5-dimethoxy-phenyl)-4H-benzo[g]chromene-3-carboxylic acid ethyl ester (32)
2-Naphthol (170 mg, 1.2 mmol), 5-bromo-3,4-dimethoxy-benzaldehyde (245 mg, 1 mmol) and ethyl cyanoacetate (113 mg, 1 mmol) were taken in 5 ml ethanol at room temperature, charged with piperidine (50 μl) and then stirred at 80° C. for 18 h. Reaction was complete and clean. The reaction mixture was then cooled down to room temperature, diluted with water to 20 ml, solids were separated by filtration, washed with methanol and dried under high vacuum (360 mg, 74%).

reactant | 2-Naphthol | 1.2 mmol, 170 mg | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 5-bromo-3,4-dimethoxy-benzaldehyde | 1 mmol, 245 mg | BrC=1C(=C(C=C(C=O)C1)OC)OC | C9H9BrO3
reactant | ethyl cyanoacetate | 1 mmol, 113 mg | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 50 μl | N1CCCCC1 | C5H11N
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-4-(3-bromo-4,5-dimethoxy-phenyl)-4H-benzo[g]chromene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(OC2=CC3=C(C=C2C1C1=CC(=C(C(=C1)OC)OC)Br)C=CC=C3)N | C24H22BrNO5
